US08304550B2
Synthesis of 2-(2,6-dimethylphenoxy)pyridine (table 1, entry 15):
191 μL (2 mmol) 2-bromopyridine, 20 mg (0.2 mmol) copper(I) chloride, 550 mg (4 mmol) potassium carbonate, 293 mg (2.4 mmol) 2,6-dimethylphenole, 130 μL 1-butylimidazole, 2 mL toluene and 200 μL internal standard (tetradecane) were added to an Ace pressure tube under argon and heated to 120° C. for 16 h. After cooling, water and diethyl ether were added, the organic phase was washed with 10% K2CO3 solution, water and brine and dried over Na2SO4. GC analysis of the organic phase showed a yield of 95%. After evaporation of the solvents, the dark brown oil was submitted to column chromatography over silica gel, mixtures of light petroleum and ethyl acetate were used as eluent. 0.32 g of light yellow solid was recovered (80% isolated yield). The substance was identified by gc/ms and nmr spectroscopy.

reactant | 2-bromopyridine | 2 mmol, 191 μL | BrC1=NC=CC=C1 | C5H4BrN
reactant | potassium carbonate | 4 mmol, 550 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-butylimidazole | 130 μL | C(CCC)N1C=NC=C1 | C7H12N2
reactant | tetradecane | CCCCCCCCCCCCCC | C14H30
catalyst | copper(I) chloride | 0.2 mmol, 20 mg | [Cu]Cl
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | O | H2O
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(2,6-dimethylphenoxy)pyridine | yield of 95% | CC1=C(OC2=NC=CC=C2)C(=CC=C1)C | C13H13NO
